### PR TITLE
[Merged by Bors] - chore: remove `UniqueDiffWithinAt` assumptions for one-dimensional derivative

### PR DESCRIPTION
**Pull request by sgouezel**
A point in a subset of a field is either a point of unique differentials, or isolated. In both cases, there is a definite value for the derivative of a map (its unique derivative in the former case, zero in the latter case). This means there is no choice involved, contrary to what happens in higher dimension. This remark means we can remove many `UniqueDiffWithinAt` assumptions in one-dimensional settings.

---

- [x] depends on: #20827

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
I'll be happy to review this PR, hence self-assigning. (Almost surely not before next week.) If somebody else feels inspired, be my guest.

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 1]
```diff
@@ -373,18 +377,20 @@ theorem HasStrictFDerivAt.comp_hasStrictDerivAt_of_eq (hl : HasStrictFDerivAt l
...
 theorem fderivWithin_comp_derivWithin {t : Set F} (hl : DifferentiableWithinAt 𝕜 l t (f x))
-    (hf : DifferentiableWithinAt 𝕜 f s x) (hs : MapsTo f s t) (hxs : UniqueDiffWithinAt 𝕜 s x) :
-    derivWithin (l ∘ f) s x = (fderivWithin 𝕜 l t (f x) : F → E) (derivWithin f s x) :=
-  (hl.hasFDerivWithinAt.comp_hasDerivWithinAt x hf.hasDerivWithinAt hs).derivWithin hxs
+    (hf : DifferentiableWithinAt 𝕜 f s x) (hs : MapsTo f s t) :
+    derivWithin (l ∘ f) s x = (fderivWithin 𝕜 l t (f x) : F → E) (derivWithin f s x) := by
+  rcases uniqueDiffWithinAt_or_nhdsWithin_eq_bot s x with hxs | hxs
+  · exact (hl.hasFDerivWithinAt.comp_hasDerivWithinAt x hf.hasDerivWithinAt hs).derivWithin hxs
+  · simp [derivWithin_zero_of_isolated hxs]
+
```
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:385]:
```suggestion
```

File: Mathlib/Analysis/Calculus/Deriv/Inv.lean [hunk 2]
```diff
@@ -106,10 +106,12 @@ theorem HasDerivAt.inv (hc : HasDerivAt c c' x) (hx : c x ≠ 0) :
...
-theorem derivWithin_inv' (hc : DifferentiableWithinAt 𝕜 c s x) (hx : c x ≠ 0)
-    (hxs : UniqueDiffWithinAt 𝕜 s x) :
-    derivWithin (fun x => (c x)⁻¹) s x = -derivWithin c s x / c x ^ 2 :=
-  (hc.hasDerivWithinAt.inv hx).derivWithin hxs
+theorem derivWithin_inv' (hc : DifferentiableWithinAt 𝕜 c s x) (hx : c x ≠ 0) :
+    derivWithin (fun x => (c x)⁻¹) s x = -derivWithin c s x / c x ^ 2 := by
+  rcases uniqueDiffWithinAt_or_nhdsWithin_eq_bot s x with hxs | hxs
+  · exact (hc.hasDerivWithinAt.inv hx).derivWithin hxs
+  · simp [derivWithin_zero_of_isolated hxs]
+
```
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/Deriv/Inv.lean:114]:
```suggestion
```

File: Mathlib/Analysis/Calculus/TangentCone.lean [hunk 3]
```diff
@@ -6,6 +6,7 @@ Authors: Sébastien Gouëzel
 import Mathlib.Analysis.Convex.Topology
 import Mathlib.Analysis.Normed.Module.Basic
 import Mathlib.Analysis.SpecificLimits.Basic
+import Mathlib.Analysis.Seminorm
```
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/TangentCone.lean:9]:
```suggestion
import Mathlib.Analysis.Seminorm
import Mathlib.Analysis.SpecificLimits.Basic
```

File: Mathlib/Analysis/Calculus/TangentCone.lean [hunk 4]
```diff
@@ -207,6 +208,125 @@ theorem mem_tangentCone_of_segment_subset {s : Set G} {x y : G} (h : segment ℝ
     y - x ∈ tangentConeAt ℝ s x :=
   mem_tangentCone_of_openSegment_subset ((openSegment_subset_segment ℝ x y).trans h)
 
+/-- The tangent cone at a non-isolated point contains `0`. -/
+theorem zero_mem_tangentCone {s : Set E} {x : E} (hx : (𝓝[s \ {x}] x).NeBot) :
+    0 ∈ tangentConeAt 𝕜 s x := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/TangentCone.lean:213]:
```suggestion
theorem zero_mem_tangentConeAt {s : Set E} {x : E} (hx : (𝓝[s \ {x}] x).NeBot) :
    0 ∈ tangentConeAt 𝕜 s x := by
```

File: Mathlib/Analysis/Calculus/TangentCone.lean
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/TangentCone.lean:1]: Since the "feat" part of this PR is so well-delimited, would you mind splitting this PR into its "feat" and "chore" parts? (with the "chore" part depending on the "feat" part unless I've misunderstood)

File: Mathlib/Analysis/Calculus/TangentCone.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/Analysis/Calculus/TangentCone.lean:213]: All other lemmas about the tangent cone use `tangentCone` and not `tangentConeAt`. I agree it's strange, but I didn't want to depart from this convention in one single lemma. If we want to do the change, it should rather be in another single renaming PR.

File: Mathlib/Analysis/Calculus/TangentCone.lean
Comment (sgouezel) [reply Mathlib/Analysis/Calculus/TangentCone.lean:1]: Done in #20827

**Comment by ocfnash** [comment]
Thanks!

bors merge

**Comment by YaelDillies** [comment]
@ocfnash, just noting the PR was miscategorised (as I had pointed out in my previous message)
